US04067906
Potassium hydroxide (112 g) is slowly dissolved (heat evolved) in ethylene glycol (400 ml) in a 2 liter copper (or stainless steel) flask. The 4-methyl-4-p-tolylpentanenitrile (94 g, 0.5 mol) was then added, the mixture refluxed for 6 hours, cooled to 10° C and diluted with 400 ml ice cold water. Hydrochloric acid (conc., 180 ml) was added slowly (heat evolved, cooling required) until the reaction mixture was acid to congo test paper. The resulting mixture was extracted with benzene, washed with water, concentrated and distilled to yield 92.8 g (89.6%) of the 4-methyl-4-p-tolylpentanoic acid: bp 178° (2 mm); nD20 1.5147;

reactant | Potassium hydroxide | 112 g | [OH-].[K+]
reactant | 4-methyl-4-p-tolylpentanenitrile | 0.5 mol, 94 g | CC(CCC#N)(C)C1=CC=C(C=C1)C | C13H17N
reactant | Hydrochloric acid | 180 ml | Cl | ClH
reactant | ethylene glycol | 400 ml | C(CO)O | C2H6O2
catalyst | copper | 2 liter | [Cu] | Cu
product | 4-methyl-4-p-tolylpentanoic acid | 92.8 g, 89.6% | CC(CCC(=O)O)(C)C1=CC=C(C=C1)C | C13H18O2
